US08809342B2
To a solution of (+/−)-methyl 6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinate (796 mg, 1.85 mmol) in THF (10 mL) was added 2N aqueous LiOH (8 mL, 16 mmol). The mixture was stirred at 50° C. overnight. The mixture was neutralized by addition of 1N aqueous HCl and extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in DMF (5 mL). HATU (1.026 g, 2.7 mmol) was added. The mixture was stirred for 45 min. Methyl 3-aminopropanoate hydrochloride (373 mg, 2.7 mmol) and N,N-diisopropylethylamine (930 mg, 7.2 mmol) were added. The resulting mixture was stirred at room temperature for 2 h. The mixture was diluted with aqueous NH4Cl. The organic layer was washed with water, dried over Na2SO4, and concentrated under reduced pressure to give crude (+/−)-methyl 3-(6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinamido)propanoate (1.0 g). Resolution by SFC (Column: OJ 250 mm*20 mm*20 μm, Mobile phase: 75:25 CO2:methanol, Flow rate: 80 mL/min, Modifier: 0.1% diethylamine) to give methyl 3-(6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinamido)propanoate, Isomer 1 (Retention time 0.959 min, 390 mg) and methyl 3-(6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinamido)propanoate, Isomer 2 (Retention time 1.87 min, 400 mg).

reactant | (+/−)-methyl 6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinate | 1.85 mmol, 796 mg | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)C(CCC)NC1=NC=C(C(=O)OC)C=C1)(F)F | C22H21F3N4O2
reactant | LiOH | 16 mmol, 2N, 8 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
reactant | HATU | 2.7 mmol, 1.026 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Methyl 3-aminopropanoate hydrochloride | 2.7 mmol, 373 mg | Cl.NCCC(=O)OC
reactant | N,N-diisopropylethylamine | 7.2 mmol, 930 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | (+/−)-methyl 3-(6-(1-(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)butylamino)nicotinamido)propanoate | 1.0 g | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)C(CCC)NC1=NC=C(C(=O)NCCC(=O)OC)C=C1)(F)F | C25H26F3N5O3
